US07714009B2
4-Methyl-N1,N1-dipropyl-benzene-1,3-diamine
A mixture of 4-methyl-3-nitro-N,N-dipropylaniline (2.49 g, 10.5 mmol) and 10% Pd on carbon (1.00 g) in AcOEt (50 ml) was hydrogenated for 18 h. The catalyst was removed by filtration through Celite. The filtrate was concentrated under vacuum. The residue was purified by chromatography eluting with 10% AcOEt in n-hexane to afford 689 mg of the title compound.

reactant | 4-methyl-3-nitro-N,N-dipropylaniline | 10.5 mmol, 2.49 g | CC1=C(C=C(N(CCC)CCC)C=C1)[N+](=O)[O-] | C13H20N2O2
solvent | AcOEt | 50 ml | CCOC(=O)C | C4H8O2
catalyst | Pd on carbon | 1.00 g | [Pd] | Pd
product | 4-Methyl-N1,N1-dipropyl-benzene-1,3-diamine | 689 mg | CC1=C(C=C(C=C1)N(CCC)CCC)N | C13H22N2
